US07022707B2
A solution of 4.89 g (10.6 mmol) 4-[4-(4-fluoro-benzyloxy)-benzylsulfanylcarbonyl]-piperazine-1-carboxylic acid tert-butyl ester in 120.6 ml 1.5M HCl/Et2O and 24.1 ml abs. MeOH was stirred at rt for 6 h. Evaporation of the reaction mixture provided 3.96 g piperazine-1-carbothioic acid S-[4-(4-fluoro-benzyloxy)-benzyl] ester hydrochloride as colourless powder, mp. 169–169.5° C. 1H-NMR(d6-DMSO): 3.05 m, 4H and 3.58–3.75 m, 4H; 4.09 s, 2H; 5.06 s, 2H; 6.94 d, 2H, 7.17–7.30 m, 4H and 7.43–7.55 m, 2H; 9.2 br, 2H. MS (ISP): 361.2 (M+H)+.

reactant | 4-[4-(4-fluoro-benzyloxy)-benzylsulfanylcarbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 10.6 mmol, 4.89 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)SCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C24H29FN2O4S
reactant | MeOH | CO | CH4O
reactant | HCl Et2O | 1.5M, 120.6 ml | Cl.CCOCC
product | piperazine-1-carbothioic acid S-[4-(4-fluoro-benzyloxy)-benzyl] ester hydrochloride | 3.96 g | Cl.FC1=CC=C(COC2=CC=C(CSC(=O)N3CCNCC3)C=C2)C=C1 | InChI=1S/C19H21FN2O2S.ClH/c20-17-5-1-15(2-6-17)13-24-18-7-3-16(4-8-18)14-25-19(23)22-11-9-21-10-12-22;/h1-8,21H,9-14H2;1H
